US08067448B2
Intermediate 13a (2R,3S)-2-(4-cyanonaphthalen-1-ylamino)-3-hydroxybutanoic acid
4-fluoro-1-naphthonitrile (13916-99-9) (1.0 g, 5.84 mmol) was mixed together with H-D-Thr-OH (835 mg, 7.01 mmol) in DMSO (20 mL). K2CO3 (1.61 g, 11.68 mmol) was added to the reaction mixture and stirred at 75° C. for 24 h. The reaction mixture was cooled to room temperature and poured slowly into a 10% citric acid solution and stirred for 10 min at room temperature. The solution was extracted with EtOAc several times to get the crude product. The crude product was chromatographed with a gradient of hexane/EtOAc and then with EtOAc, 100% to get the pure final product (1.1 g): 1H NMR (500 MHz, acetone-d6, δ in ppm) 8.25 (d, J=9 Hz, 1H), 8.09 (d, J=9 Hz, 1H), 7.84 (d, J=9 Hz, 1H), 7.75 (t, J=9 Hz, 1H), 7.65 (t, J=9 Hz, 1H), 6.70 (d, J=9 Hz, 1H), 6.32 (d, J=9 Hz, 1H), 4.53 (m, 1H), 4.38 (m, 1H), 1.40 (d, J=6 Hz, 3H).

reactant | 4-fluoro-1-naphthonitrile | 5.84 mmol, 1.0 g | FC1=CC=C(C2=CC=CC=C12)C#N | C11H6FN
reactant | H-D-Thr-OH | 7.01 mmol, 835 mg | N[C@H]([C@@H](O)C)C(=O)O | C4H9NO3
reactant | K2CO3 | 11.68 mmol, 1.61 g | C(=O)([O-])[O-].[K+].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | (2R,3S)-2-(4-cyanonaphthalen-1-ylamino)-3-hydroxybutanoic acid | 1.1 g | C(#N)C1=CC=C(C2=CC=CC=C12)N[C@@H](C(=O)O)[C@H](C)O | C15H14N2O3
